US04221794
9-(1-HYDROXYL-2-PROPYL)-6-IODOPURINE (NPT 15427)
9-(1-Hydroxy-2-propyl)-6-chloropurine (I, 1.5 g, 7 mmol) was added to hydroiodic acid (15 ml) at -10° with stirring for 45 min. The precipitate was filtered, neutralized with anhydrous sodium acetate at 5°, and washed with a little cold water (3 times). Recrystallization from ethanol/H2O, gave colorless crystals. Yield=0.9 g (42%) mp=193°-194° uv λmax 276 nm (H2O, pH 5.5).

reactant | 9-(1-Hydroxy-2-propyl)-6-chloropurine | 7 mmol, 1.5 g | OCC(C)N1C2=NC=NC(=C2N=C1)Cl | C8H9ClN4O
reactant | hydroiodic acid | 15 ml | I | HI
solvent | H2O | O | H2O
product | 9-(1-HYDROXYL-2-PROPYL)-6-IODOPURINE | OCC(C)N1C2=NC=NC(=C2N=C1)I | C8H9IN4O
